spice
* SPICE netlist for the schematic

* Voltage source
V1 Vin 0 DC 0

* Resistor
RF 2 4 1k ; Feedback resistor

* Capacitors
C1 Vin 2 10u ; Capacitor C1
C2 4 2 10u ; Capacitor C2

* Operational amplifier
* Non-ideal op-amp model
.subckt opamp in+ in- out vcc vee
* Volgage controlled voltage source
E1 out 0 value
* Voltage source for power supply connections
VCC vcc 0 DC 15 ; Positive supply
VEE vee 0 DC -15 ; Negative supply
.ends opamp

XOP 2 1 Vout opamp
